US07163937B2
Synthesis of (S)-1-[(1S,2R,4R)-4-(isopropyl(methyl)amino)-2-propylcyclohexyl]-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one
To a solution of (S)-3-amino-1-[(1S,2R,4R)-4-(isopropyl(methyl)amino)-2-propylcyclohexyl]pyrrolidin-2-one (7.0 mmol) in EtOH (23 mL) was added triethylamine (2.5 mL, 17.5 mmol) and 4-chloro-6-(trifluoromethyl)quinazoline (2.03 g, 8.75 mmol). The mixture was heated at 75° C. for 14 h and then concentrated in vacuo. [Note: on smaller reaction scales, this residue could be diluted in water/acetonitrile, filtered, and purified directly by RP-HPLC.] The residue was dissolved in 60 mL of 2:1 H2O/AcOH and extracted with Et2O twice. The aqueous phase was basified to pH 14 with solid NaOH (the temperature of this exothermic process was controlled through the intermittent use of an external ice bath) and then extracted with EtOAc thrice. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo to give a solid. The material was recrystallized from EtOAc twice to provide the title compound, (S)-1-[(1S,2R,4R)-4-(isopropyl(methyl)amino)-2-propylcyclohexyl]-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one, as a white microcrystalline solid (1.83 g, 52% yield). MS found: (M+H)+=492.4. [Note: Purification of the the mother liquors using RP-HPLC provided more of the title compound as its bis-TFA salt.]

reactant | (S)-3-amino-1-[(1S,2R,4R)-4-(isopropyl(methyl)amino)-2-propylcyclohexyl]pyrrolidin-2-one | 7.0 mmol | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CCC)=O | C17H33N3O
reactant | triethylamine | 17.5 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 8.75 mmol, 2.03 g | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
solvent | EtOH | 23 mL | CCO | C2H6O
solvent | water acetonitrile | O.C(C)#N
product | (S)-1-[(1S,2R,4R)-4-(isopropyl(methyl)amino)-2-propylcyclohexyl]-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)CCC)C | C26H36F3N5O
